US08247576B2
67C. 4-[4-(2-Methoxy-ethoxy)-phenyl]-4-[4-(1H-pyrazol-4-yl)-phenyl]-piperidine
4-(4-Bromo-phenyl)-4-[4-(2-methoxy-ethoxy)-phenyl]-piperidine-1-carboxylic acid tert-butyl ester was reacted with 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)1H-pyrazole following the procedure set out in Example 1, substituting tetrads triphenylphosphine palladium (0) as catalyst, the title compound was obtained. LC/MS: (PS-A2)Rt 3.27 [M+H]+ 478.

reactant | 4-(4-Bromo-phenyl)-4-[4-(2-methoxy-ethoxy)-phenyl]-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)(C1=CC=C(C=C1)OCCOC)C1=CC=C(C=C1)Br | C25H32BrNO4
reactant | 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)1H-pyrazole | CC1(OB(OC1(C)C)C=1C=NNC1)C | C9H15BN2O2
catalyst | triphenylphosphine palladium (0) | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | 4-[4-(2-Methoxy-ethoxy)-phenyl]-4-[4-(1H-pyrazol-4-yl)-phenyl]-piperidine | COCCOC1=CC=C(C=C1)C1(CCNCC1)C1=CC=C(C=C1)C=1C=NNC1 | C23H27N3O2
